datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(C(=S)[N:21](c2ccc(Cl)c(Cl)c2)[H:20])cc1.Fc1ccc([N-:10]C(=S)c2ccccc2)cc1>>Cc1ccc(C(=S)[N-:21]c2ccc(Cl)c(Cl)c2)cc1.Fc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].N#CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#CC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O-:10].O=C([O-])CCCCCCCCC[NH2+:21][H:20]>>CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O:10][H:20].O=C([O-])CCCCCCCCC[NH2:21] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20]>>CC(C)(C)[O:10][H:20].C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-] 10=20;20,21=21",
"CSc1nc(N)c2c(nc[n-:10]2)n1.[O-]c1ccnc[n+:21]1[H:20]>>CSc1nc(N)c2c(nc[n:10]2[H:20])n1.[O-]c1ccnc[n:21]1 10=20;20,21=21",
"CCC(CCCl)[NH2+:21][H:20].CN1CC=CC[N:10]1C>>CCC(CCCl)[NH2:21].CN1CC=CC[N+:10]1(C)[H:20] 10=20;20,21=21",
"Cc1cc(Cn2c(C)cc(C)[n:10]2)nn1C.Clc1ccc([S:21][H:20])cc1>>Cc1cc(Cn2c(C)cc(C)[n+:10]2[H:20])nn1C.Clc1ccc([S-:21])cc1 10=20;20,21=21",
"C[N+:21](C)(Cc1ccccc1CO)[H:20].O=C(c1cccc2ccccc12)[O-:10]>>C[N:21](C)Cc1ccccc1CO.O=C(c1cccc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"C[n+]1ccsc1[NH:21][H:20].[NH3+]CCCCCC(=O)[O-:10]>>C[n+]1ccsc1[NH-:21].[NH3+]CCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"NC(=O)C(Cc1c[nH]c2ccccc12)[NH2+:21][H:20].O=C(O[O-:10])c1ccccc1>>NC(=O)C(Cc1c[nH]c2ccccc12)[NH2:21].O=C(O[O:10][H:20])c1ccccc1 10=20;20,21=21",
"C/S(C(C)(C)C)=[O+:21]\[H:20].[NH3+]CCNC(=S)[S-:10]>>CS(C(C)(C)C)=[O:21].[NH3+]CCNC(=S)[S:10][H:20] 10=20;20,21=21",
"C=CC[NH2+]CCC[NH:10]CC=C.Oc1ccccc1CCC[NH2+:21][H:20]>>C=CC[NH2+]CCC[NH+:10](CC=C)[H:20].Oc1ccccc1CCC[NH2:21] 10=20;20,21=21",
"Cc1ccc([NH2+:21][H:20])cc1C.c1ccc2cc3c(cc2c1)[nH]c[n:10]3>>Cc1ccc([NH2:21])cc1C.c1ccc2cc3c(cc2c1)[nH]c[n+:10]3[H:20] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=C([O-])C1CC[NH:10]C1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=C([O-])C1CC[NH+:10]([H:20])C1 10=20;20,21=21",
"CC(=O)N1CS(=O)(=O)CC1C(=O)[O:21][H:20].COc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1>>CC(=O)N1CS(=O)(=O)CC1C(=O)[O-:21].COc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CCOC(=O)CC[NH2:10].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:21]2[H:20])o1>>CCOC(=O)CC[NH2+:10][H:20].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:21]2)o1 10=20;20,21=21",
"CC(C)S(=O)(=O)n1c(N)[n:10]c2ccc(C(=CC(N)=O)c3cccc(F)c3)cc21.C[NH+](C)CCCNc1cc[n+:21]([H:20])c2ccc([N+](=O)[O-])cc12>>CC(C)S(=O)(=O)n1c(N)[n+:10]([H:20])c2ccc(C(=CC(N)=O)c3cccc(F)c3)cc21.C[NH+](C)CCCNc1cc[n:21]c2ccc([N+](=O)[O-])cc12 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.CNc1nc(C)nc2c1cn[n-:10]2>>CC1=[N:21]CCc2c1[nH]c1ccc([N+](=O)[O-])cc21.CNc1nc(C)nc2c1cn[n:10]2[H:20] 10=20;20,21=21",
"C[N+:21](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20].O=C([O-])CCCCCCCCC[NH2:10]>>C[N:21](C)CC(CSCc1ccccc1)SCc1ccccc1.O=C([O-])CCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"C=CC[N:10](CC(C)O)CC(C)O.Nc1n(Cc2ccccc2)nn[n+:21]1[H:20]>>C=CC[N+:10](CC(C)O)(CC(C)O)[H:20].Nc1n(Cc2ccccc2)nn[n:21]1 10=20;20,21=21",
"CC(CN1c2ccccc2Sc2ccccc21)[N+:21](C)(C)[H:20].COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N:10](C)CC[C@]314>>CC(CN1c2ccccc2Sc2ccccc21)[N:21](C)C.COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N+:10](C)([H:20])CC[C@]314 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])[C@]12C[NH:10]CC[C@H]1O2>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])[C@]12C[NH+:10]([H:20])CC[C@H]1O2 10=20;20,21=21",
"CC1CCC[NH:10]C1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CCC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Clc1ccc(C([NH2+]c2ccccc2)[O-:10])cc1.O=C(c1ccccc1F)[O:21][H:20]>>Clc1ccc(C([NH2+]c2ccccc2)[O:10][H:20])cc1.O=C(c1ccccc1F)[O-:21] 10=20;20,21=21",
"C=CCc1ccc2cccnc2c1[O-:10].C[OH+:21][H:20]>>C=CCc1ccc2cccnc2c1[O:10][H:20].C[OH:21] 10=20;20,21=21",
"C1C[NH:10]CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1C[NH+:10]([H:20])CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC1=Nc2ccc([N+](=O)[O-])cc2[N+:21]([H:20])=C(C)C1.O=C(CCCCC1CCSS1)[O-:10]>>CC1=Nc2ccc([N+](=O)[O-])cc2[N:21]=C(C)C1.O=C(CCCCC1CCSS1)[O:10][H:20] 10=20;20,21=21",
"COC(O)(C(F)(F)F)[O:21][H:20].C[NH2+]CC/C(N)=[N:10]\O>>COC(O)(C(F)(F)F)[O-:21].C[NH2+]CC/C(N)=[N+:10](\O)[H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc2c(c1)C(=O)[N-:10]C2=O.O=N[N:21](c1nc([N+](=O)[O-])nn1-c1ccccc1)[H:20]>>CC(C)(C)c1ccc2c(c1)C(=O)[N:10]([H:20])C2=O.O=N[N-:21]c1nc([N+](=O)[O-])nn1-c1ccccc1 10=20;20,21=21",
"C[N+](C)(C)CCCC(=O)[O-:10].NC(=O)CC(=O)c1cccc[n+:21]1[H:20]>>C[N+](C)(C)CCCC(=O)[O:10][H:20].NC(=O)CC(=O)c1cccc[n:21]1 10=20;20,21=21",
